US07812028B2
d) 5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-2-trifluoromethyl-nicotinamide
The title compound was synthesized in analogy to Example 5d, using 5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-2-trifluoromethyl-nicotinic acid and (1R,2R)-2-amino-1-cyclohexanol as starting materials, MS (ISP) 469.3 (M+H)+.

reactant | 5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-2-trifluoromethyl-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC(=C(C(=O)O)C1)C(F)(F)F)OCC1CC1 | C17H13ClF3NO3
reactant | (1R,2R)-2-amino-1-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-2-trifluoromethyl-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC(=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C(F)(F)F)OCC1CC1 | C23H24ClF3N2O3
